US05731299
A suspension of 2.38 g (0.01 mole) of diethoxyphosphinylmethanesulfonate lithium salt (Carretero, et al.; Tetrahedron, 43, 5125 (1987)) in 50 ml of anhydrous tetrahydrofuran is stirred in a -40° bath under a dry nitrogen atmosphere. To this is added n-butyl lithium (4.4 ml of 2.5M solution in hexanes; 0.011 mole) via syringe over 5 minutes. The reaction mixture is allowed to warm to -15°, and is stirred at this temperature for about one hour. To it is then added rapidly a solution of 2.2 g (0.01 mole) of 2,2'-dipyridyl disulfide in 30 ml of anhydrous THF. The reaction mixture is stirred for 1 hour at -15°, and is then allowed to warm to room temperature over several hours as the bath warms up. It is stirred at ambient temperature for several hours, and is then quenched by addition of 50 ml of water. The reaction mixture is concentrated under vacuum on a rotary evaporator to get rid of the THF, and the aqueous layer is extracted with ether to remove some impurities. The water layer is concentrated to 10 ml on a rotary evaporator, and 10 ml of 12N HCl is added. The solution is heated at reflux for 12-24 hours, and is evaporated to dryness under vacuum. The residue is dissolved in water and is treated with cation exchange resin in H+ form to remove Li salts. The solution is taken to dryness on a rotary evaporator, and the residue is triturated with acetone. The resulting solid is filtered off and recrystallized from water/ethanol to yield phosphono(2-pyridinylthio)methanesulfonic acid.

reactant | diethoxyphosphinylmethanesulfonate lithium salt | 0.01 mole, 2.38 g | [Li+].C(C)OP(=O)(OCC)CS(=O)(=O)[O-]
reactant | n-butyl lithium | 0.011 mole, 2.5M, 4.4 ml | C(CCC)[Li]
reactant | 2,2'-dipyridyl disulfide | 0.01 mole, 2.2 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | phosphono(2-pyridinylthio)methanesulfonic acid | P(=O)(O)(O)C(S(=O)(=O)O)SC1=NC=CC=C1 | C6H8NO6PS2
